US04367236
1,3-Dihydro-4-methyl-5-(1-oxopropyl)-2H-imidazol-2-thione
Ten grams of 3-amino-2,4-hexanedione hydrochloride are dissolved in 100 ml water. Fifteen grams of potassium thiocyanate are added and the mixture is heated on the steam bath for 10 minutes. On cooling, the title compound is obtained.

reactant | 3-amino-2,4-hexanedione hydrochloride | Ten grams | Cl.NC(C(C)=O)C(CC)=O
reactant | potassium thiocyanate | Fifteen grams | [S-]C#N.[K+]
solvent | water | 100 ml | O | H2O
product | 1,3-Dihydro-4-methyl-5-(1-oxopropyl)-2H-imidazol-2-thione | CC=1NC(NC1C(CC)=O)=S | C7H10N2OS
